US08017780B1
(2S)-1-[4-(2-{4-Amino-2-[(6-(dimethylamino)-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-2-hydroxypropan-1-one
To a solution of (2S)-1-[4-(2-{4-amino-2-[(6-(dimethylamino)-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-1-oxopropan-2-yl acetate (171 mg, 0.32 mmol) in MeOH (3.0 mL) was added K2CO3 (89 mg, 0.64 mmol) and resulting mixture was stirred for 6 h room temperature. After completion of the reaction, the solvent was evaporated under reduced pressure and residue was purified by flash column chromatography. The product was eluted with 10% MeOH in dichloromethane. 1H NMR (DMSO-d6) δ 7.1 (d, J=5.8 Hz, 1H), 7.0 (s, 1H), 6.78 (d, J=5.8 Hz, 1H), 6.41 (s, 2H), 6.18 (s, 1H), 5.94 (s, 2H), 7.78 (d, J=7.4 Hz, 1H), 4.37 (qin, J=5.0 Hz, 1H), 4.27 (t, J=11.3 Hz, 1H), 4.09-4.2 (m, 2H), 3.16 (d, J=5.0 Hz, 1H), 2.77-2.9 (m, 1H), 2.63 (s, 6H), 2.38-2.5 (m, 1H), 1.66 (d, J=11.7 Hz, 2H), 1.53 (q, J=6.6 Hz, 2H), 1.35-1.5 (m, 1H), 1.13 (t, J=5.0 Hz, 3H), 0.85-1.1 (m, 2H); TOF-MS [M+H]+ 513.22.

reactant | (2S)-1-[4-(2-{4-amino-2-[(6-(dimethylamino)-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-1-oxopropan-2-yl acetate | 0.32 mmol, 171 mg | C(C)(=O)O[C@H](C(=O)N1CCC(CC1)CCN1C(=NC=2C(=NC=CC21)N)SC2=CC1=C(OCO1)C=C2N(C)C)C | C27H34N6O5S
reactant | K2CO3 | 0.64 mmol, 89 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 3.0 mL | CO | CH4O
product | (2S)-1-[4-(2-{4-Amino-2-[(6-(dimethylamino)-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-2-hydroxypropan-1-one | NC1=NC=CC2=C1N=C(N2CCC2CCN(CC2)C([C@H](C)O)=O)SC2=CC1=C(OCO1)C=C2N(C)C | C25H32N6O4S
